US07420001B2
A mixture of (2-acetyl-4-bromo-phenoxy)-acetic acid ethyl ester (2.87 g, 9.5 mmol, 1 eq) and sodium ethoxide (0.65 g, 9.5 mmol, 1 eq) in 100 mL of ethanol under nitrogen was heated to 75° C. for 3 h. After work up followed by column chromatography (20% MeOH/dichloromethane), 5-bromo-3-methyl-benzofuran-2-carboxylic acid was obtained in 72% yield (1.74 g). 1H NMR (400 MHz, CD3OD) δ ppm 2.5 (s, 3 H) 7.5 (d, J=8.8 Hz, 1 H) 7.6 (m, 1 H) 7.9 (d, J=2.0 Hz, 1 H).

reactant | (2-acetyl-4-bromo-phenoxy)-acetic acid ethyl ester | 9.5 mmol, 2.87 g, 1 eq | C(C)OC(COC1=C(C=C(C=C1)Br)C(C)=O)=O | C12H13BrO4
reactant | sodium ethoxide | 9.5 mmol, 0.65 g, 1 eq | [O-]CC.[Na+]
reactant | MeOH dichloromethane | CO.ClCCl
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-bromo-3-methyl-benzofuran-2-carboxylic acid | 72% yield | BrC=1C=CC2=C(C(=C(O2)C(=O)O)C)C1 | C10H7BrO3
